US08748418B2
A mixture of ethyl 6-chloro-3-hydroxyfuro[3,2-b]pyridine-2-carboxylate (154 mg, 637 μmol) and 10% hydrochloric acid (4.65 g, 3.87 ml, 127 mmol) was stirred at 110° C. for 3 hours. To the cooled brown solution was added some ice and neutralized with sat NaHCO3 to pH=8. Then the aqueous layer was extracted thrice with dichloromethane, the combined organic layers were washed with brine, dried over Na2SO4, filtered and evaporated to give a brown oil. The residue was purified by silica gel flash chromatography with dichloromethane toster) with CH2Cl2 to give the 6-chloro-furo[3,2-b]pyridin-3-one (79 mg, 466 μmol, 73.1% yield) as a light brown solid. MS (ISP): m/z=170.0 [(M+H)+] and 172.0 [(M+2+H)+].

reactant | ethyl 6-chloro-3-hydroxyfuro[3,2-b]pyridine-2-carboxylate | 637 μmol, 154 mg | ClC=1C=C2C(=NC1)C(=C(O2)C(=O)OCC)O | C10H8ClNO4
reactant | hydrochloric acid | 127 mmol, 3.87 ml, 4.65 g | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 6-chloro-furo[3,2-b]pyridin-3-one | 466 μmol, 79 mg, 73.1% yield | ClC=1C=C2C(=NC1)C(CO2)=O | C7H4ClNO2
